US08957070B2
N-Methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride
Under ice-cooling, formic acid (6.0 mL) was added dropwise to acetic anhydride (12.5 mL). After dropwise addition, the reaction mixture was stirred at 60° C. for 2 hr. Tetrahydrofuran (10 mL) was added to the reaction mixture, and a solution of 2-(1,3-thiazol-2-yl)-1H-indole-7-amine (10 g) in tetrahydrofuran (10 mL) was added dropwise under ice-cooling. The reaction mixture was stirred for 30 min and concentrated. Tetrahydrofuran (10 mL) was added to the obtained residue, and borane-tetrahydrofuran complex (1.0 M tetrahydrofuran solution, 30 mL) was added. The reaction mixture was stirred with heating under reflux for 1 hr. The reaction mixture was cooled to room temperature, and methanol (5 mL) was added. The reaction mixture was stirred with heating under reflux for 1 hr, concentrated, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1). To the obtained a yellow oil was added 4N hydrogen chloride-ethyl acetate solution (30 mL). The obtained yellow crystals were collected by filtration, and washed with diethyl ether and hexane to give the title compound (10 g, yield 70%) as yellow crystals. melting point 89° C.

reactant | formic acid | 6.0 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 12.5 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(1,3-thiazol-2-yl)-1H-indole-7-amine | 10 g | S1C(=NC=C1)C=1NC2=C(C=CC=C2C1)N | C11H9N3S
reactant | hydrogen chloride-ethyl acetate | 4N, 30 mL | C(C)(=O)OCC.Cl
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-Methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine hydrochloride | 10 g, yield 70% | Cl.CNC=1C=CC=C2C=C(NC12)C=1SC=CN1 | InChI=1S/C12H11N3S.ClH/c1-13-9-4-2-3-8-7-10(15-11(8)9)12-14-5-6-16-12;/h2-7,13,15H,1H3;1H
